US04343811
2-[7,8,9,10-Tetrahydro-11-phenyl-6H-azepino[1,2-a]-indole-2-yloxy]-2-methyl-propanoic acid ethylester
In accordance with a procedure analogous to that of Example 10, the above compound was prepared from 7,8,9,-10-tetrahydro-11-phenyl-6H-azepino[1,2-a]-indole-2-ol and 2-bromo-2-methyl-propanoic acid ethylester.

reactant | 7,8,9,-10-tetrahydro-11-phenyl-6H-azepino[1,2-a]-indole-2-ol | C1(=CC=CC=C1)C1=C2N(C3=CC=C(C=C13)O)CCCCC2 | C19H19NO
reactant | 2-bromo-2-methyl-propanoic acid ethylester | C(C)OC(C(C)(C)Br)=O | C6H11BrO2
product | 2-[7,8,9,10-Tetrahydro-11-phenyl-6H-azepino[1,2-a]-indole-2-yloxy]-2-methyl-propanoic acid ethylester | C(C)OC(C(C)(C)OC=1C=C2C(=C3N(C2=CC1)CCCCC3)C3=CC=CC=C3)=O | C25H29NO3
